US07176210B2
Preparation of Intermediate 2-(2-Chlorophenyl)-4H-pyrazolo[1,5-a]pyrimidin-7-one (I-1A-1b)
A solution of 5-(2-chlorophenyl)-2H-pyrazol-3-ylamine (I-1A-1a; 287 g, 1.48 mol) and ethyl formylacetate sodium salt (517 g, 3.74 mol) in ethanol (12 L) was heated at reflux for 6 hours. Additional ethyl formylacetate sodium salt (100 g, 0.72 mol) was added, and the reaction was heated at reflux for an additional 2 hours. After cooling to room temperature, the reaction was concentrated, in vacuo, to give an amber oil. The residue was redissolved in water (2 L) and then adjusted to pH 8 by dropwise addition of concentrated aqueous HCl. The solid precipitate that formed was isolated by vacuum filtration. This material was suspended in tetrahydrofuran (3 liters) and then stirred overnight. The solid was isolated by vacuum filtration and then dried, in vacuo, to afford I-1A-1b as an off-white solid (356 g, 98%): +APcI MS (M+1) 246.2; 1H NMR (400 MHz, DMSO-d6) δ 7.89 (d, J=7.5 Hz, 1H), 7.85–7.82 (m, 1H), 7.58–7.53 (m, 1H), 7.46–7.41 (m, 2H), 6.58 (s, 1H), 5.71 (d, J=7.1 Hz, 1H).

reactant | 5-(2-chlorophenyl)-2H-pyrazol-3-ylamine | 1.48 mol, 287 g | ClC1=C(C=CC=C1)C=1C=C(NN1)N | C9H8ClN3
reactant | ethyl formylacetate sodium salt | 3.74 mol, 517 g | [Na].C(=O)CC(=O)OCC
reactant | ethyl formylacetate sodium salt | 0.72 mol, 100 g | [Na].C(=O)CC(=O)OCC
reactant | HCl | Cl | ClH
solvent | ethanol | 12 L | C(C)O | C2H6O
solvent | water | 2 L | O | H2O
solvent | tetrahydrofuran | 3 liters | O1CCCC1 | C4H8O
product | 2-(2-Chlorophenyl)-4H-pyrazolo[1,5-a]pyrimidin-7-one | 356 g, 98% | ClC1=C(C=CC=C1)C1=NN2C(NC=CC2=O)=C1 | C12H8ClN3O
